US05223539
3-chloro-N-cyclohexyl-N-(1-methylethyl)-4-(3,4,5-trimethoxyphenoxy)benzamide
A slurry of cuprous oxide (300 mg, 2.1 mmol) in a solution of 3,4,5-trimethoxyphenol (736 mg, 4.0 mmol) and 4-bromo-3-chloro-N-cyclohexyl-N-isopropylbenzamide (1.43 g, 4.0 mmol) in 2,4,6-collidine (20 mL) is refluxed with stirring under a nitrogen atmosphere for 18 hr. The reaction is cooled, poured onto dilute aqueous HCl and extracted three times with ethyl acetate. The combined organic layers are washed twice with saturated aqueous NaCl solution, twice with 5% NaOH solution, twice with saturated NaCl solution and dried (Na2SO4). The drying agent is filtered and the filtrate concentrated in vacuo to give the crude product. This material is chromatographed on silica gel using mixtures of ethyl acetate and hexane as the eluents to give the title compound.

reactant | 3,4,5-trimethoxyphenol | 4.0 mmol, 736 mg | COC=1C=C(C=C(C1OC)OC)O | C9H12O4
reactant | 4-bromo-3-chloro-N-cyclohexyl-N-isopropylbenzamide | 4.0 mmol, 1.43 g | BrC1=C(C=C(C(=O)N(C(C)C)C2CCCCC2)C=C1)Cl | C16H21BrClNO
reactant | HCl | Cl | ClH
solvent | 2,4,6-collidine | 20 mL | N1=C(C=C(C=C1C)C)C | C8H11N
product | 3-chloro-N-cyclohexyl-N-(1-methylethyl)-4-(3,4,5-trimethoxyphenoxy)benzamide | ClC=1C=C(C(=O)N(C(C)C)C2CCCCC2)C=CC1OC1=CC(=C(C(=C1)OC)OC)OC | C25H32ClNO5
